US07176242B2
To a stirred solution of quinolin-7-yl trifluoroacetate (750 mg, 2.7 mmol), PdCl2(Ph3P) (95 mg, 0.14 mmol), and triethylamine (1.2 mL, 8.4 mmol) in 1:2 DMF/MeOH (39 mL) was degassed and sparged with CO, and the mixture was heated at 60° C. for 48 h. The mixture was cooled to room temperature, filtered through diatomaceous earth, and concentrated under reduced pressure. The residue was diluted with a 5% solution of LiCl, and washed with CHCl3 (3×250 mL). The combined organics were dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 3:1 ethyl acetate/hexanes) provided methyl quinoline-7-carboxylate (185 mg): ESI MS m/z 188 [M+H]+.

reactant | quinolin-7-yl trifluoroacetate | 2.7 mmol, 750 mg | FC(C(=O)OC1=CC=C2C=CC=NC2=C1)(F)F | C11H6F3NO2
reactant | triethylamine | 8.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | DMF MeOH | 39 mL | CN(C)C=O.CO
product | methyl quinoline-7-carboxylate | 185 mg | N1=CC=CC2=CC=C(C=C12)C(=O)OC | C11H9NO2
